US08609680B2
(5-Methylpyridin-2-yl)acetic acid was prepared using analogous procedures to those used for the preparation of (5-methoxypyridin-2-yl)acetic acid (SM-1ab) substituting 2-bromo-5-methylpyridine for 2-bromo-5-methoxypyridine.

reactant | (5-methoxypyridin-2-yl)acetic acid | COC=1C=CC(=NC1)CC(=O)O | C8H9NO3
reactant | 2-bromo-5-methoxypyridine | BrC1=NC=C(C=C1)OC | C6H6BrNO
product | (5-Methylpyridin-2-yl)acetic acid | CC=1C=CC(=NC1)CC(=O)O | C8H9NO2
